US04904675
Di(1-ethoxycarbonyl-1-ethoxy-methyl)pyridine-2,5-dicarboxylate
2,5-Dicarboxy-pyridine (1.67 g, 0.01 mol) is suspended in 40 ml of dichloromethane. 2.8 ml of triethylamine are added dropwise, followed by 4.02 g (0.02 mol) of ethyl 2-bromo-2-ethoxy-acetate. The solution is stirred at room temperature for 2 h. After this period, the dichloromethane solution is filtered, washed with water, dried over magnesium sulfate and evaporated to dryness. The residue is purified by silica gel column chromatography (dichloromethane/ethyl acetate) to yield the title compound as a resin; IR (NaCl film): 1730 (CO), 1765 (CO) cm-1.

reactant | 2,5-Dicarboxy-pyridine | 0.01 mol, 1.67 g | C(=O)(O)C1=NC=C(C=C1)C(=O)O | C7H5NO4
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-bromo-2-ethoxy-acetate | 0.02 mol, 4.02 g | BrC(C(=O)OCC)OCC | C6H11BrO3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Di(1-ethoxycarbonyl-1-ethoxy-methyl)pyridine-2,5-dicarboxylate | C(C)OC(=O)C(OCC)OC(=O)C1=NC=C(C=C1)C(=O)OC(OCC)C(=O)OCC | C19H25NO10
